US07786120B2
tert-Butyl 4-(4-(hydroxymethyl)phenyl)piperazine-1-carboxylate
4-(4-(tert-Butoxycarbonyl)piperazin-1-yl)benzoic acid (10 g, 32.64 mmol) was dissolved in anhydrous THF (200 mL) under nitrogen at 0° C. and BH3.THF (1M in THF, 65.3 mL, 65.3 mmol) was added over 15 min. The reaction was maintained at this temperature and after 3 h a further portion of BH3.THF (1M in THF, 10 mL, 10 mmol) was added. After 2 h, MeOH (30 mL) was added and the reaction was warmed to rt. The reaction mixture was partitioned between EtOAc (150 mL) and brine (200 mL). The aqueous layer was re-extracted with EtOAc (100 mL) and the combined organics were washed with a saturated aqueous solution of NaHCO3 (150 mL) and then dried (MgSO4) and filtered. On concentration of the solution the title compound (8.57 g, 90%) precipitated as a white solid and was collected by filtration. 1H NMR (CDCl3) 1.51 (9H, s), 8.14 (4H, t), 3.62 (4H, t), 4.62 (2H, d), 6.94 (2H, d), 7.31 (2H, d).

reactant | 4-(4-(tert-Butoxycarbonyl)piperazin-1-yl)benzoic acid | 32.64 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C16H22N2O4
reactant | BH3.THF | 65.3 mmol, 1M, 65.3 mL | B.C1CCOC1
reactant | BH3.THF | 10 mmol, 1M, 10 mL | B.C1CCOC1
reactant | MeOH | 30 mL | CO | CH4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-(hydroxymethyl)phenyl)piperazine-1-carboxylate | OCC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
